US07619096B2
Preparation 1: 1,1-Dimethylethyl (3S)-3-aminopyrrolidine-1-carboxylate
Methanesulfonyl chloride (5. 26 mL, 68 mmol) was added dropwise over 5 minutes to a stirred solution of 1,1-dimethylethyl (3R)-3-hydroxypyrrolidine-1-carboxylate (10.6 g, 56.7 mmol) and triethylamine (11.8 mL, 85 mmol) in dichloromethane (250 mL) at −10° C. After stirring for 1 hour at 0° C., the reaction was quenched by addition of water. The organic phase was washed with brine, dried (MgSO4), filtered and evaporated in vacuo to give an oil. This was purified by flash chromatography on silica, eluting with ethyl acetate/cyclohexane (25:75 to 50:50), to give the title compound as an oil.

reactant | Methanesulfonyl chloride | 68 mmol, 26 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1,1-dimethylethyl (3R)-3-hydroxypyrrolidine-1-carboxylate | 56.7 mmol, 10.6 g | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | triethylamine | 85 mmol, 11.8 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl (3S)-3-aminopyrrolidine-1-carboxylate | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
